US06489353B2
N-[(1-methyl-3-isobutyl-indole-2-cabonyl)leucinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic Acid
Treatment of N-[(1-methyl-3-isobutyl-indole-2-cabonyl)leucinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester (47.6 mg, 0.070 mmol) with TFA as described in Example 80 gave the titled product (29.0 mg, 67%) as a white powder. MS C35H43F4N3O6, [M+Na]+=644, [M−H]−=620. TLC (CH2Cl2/MeOH, 90/10): Rf=0.19.

reactant | N-[(1-methyl-3-isobutyl-indole-2-cabonyl)leucinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | 0.070 mmol, 47.6 mg | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)=O | C35H43F4N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[(1-methyl-3-isobutyl-indole-2-cabonyl)leucinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic Acid | 29.0 mg, 67% | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(CC(=O)O)C(COC1=C(C(=CC(=C1F)F)F)F)=O | C31H35F4N3O6
